US05686445
N-[4-[(2-Chlorodibenz[b,f][1,4]oxazepin-10(11H)-yl)carbonyl]phenyl]-2-methylbenzamide
To a mixture of 0.229 g (1.0 mmol) of 2-chloro-10,11-dihydrodibenz[b,f][1,41oxazepine in 1.0 ml of pyridine under nitrogen is added 0.30 g (1.1 mmol) of 4-[(2-methylbenzoyl)amino]benzoyl chloride. The mixture is stirred at room temperature for 1 hour, heated on a steam bath for 5 minutes and 8 ml of 2N HCl added. The mixture is extracted with ethyl acetate and the extract washed three times with 1 ml of 1N sodium bicarbonate. The organic layer is dried (MgSO4) and the solvent removed. The residue is crystallized from ethyl acetate-hexane to give 0.24 g of crystals, m.p. 207°-208° C.

reactant | 2-chloro-10,11-dihydrodibenz[b,f][1,41oxazepine | 1.0 mmol, 0.229 g | ClC=1C=CC2=C(CNC3=C(O2)C=CC=C3)C1 | C13H10ClNO
reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 1.1 mmol, 0.30 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | HCl | 2N, 8 ml | Cl | ClH
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-[(2-Chlorodibenz[b,f][1,4]oxazepin-10(11H)-yl)carbonyl]phenyl]-2-methylbenzamide | 0.24 g | ClC=1C=CC2=C(CN(C3=C(O2)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O)C1 | C28H21ClN2O3
